US08389509B2
To a solution of 4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde (700 mg, 1.821 mmol) in MeOH (12 mL) and 1,2-dichloroethane (3 mL) was added 0.1 mL of acetic acid and azetidine-3-carboxylic acid (203 mg, 2.0 mmol). The mixture was allowed to stir at room temperature for 40 min. and then sodium triacetoxyborohydride (618 mg, 2.91 mmol) was added. The mixture was allowed to stir at room temperature for 5 hours, then was filtered to afford a white solid that was washed with water (1 mL) and MeOH (3×1 mL). The solid was dried under vacuum to give 1-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylic acid (480 mg, 1.02 mmol). The compound had an HPLC retention time=6.91 min. −Column: Low pH Col-1: Sunfire C18 3.5 um, 4.6×150 mm; Start % B=10; 12 Min. 100%; 15 Min. 100%; Flow Rate=2 mL/min; Wavelength1=220; Wavelength2=254; Solvent Pair=TFA-MeCN/H2O; Solvent A=0.05% TFA in H2O:MeCN (95:5); Solvent B=0.05% TFA in H2O:MeCN (5:95); Column 1=LOW pH-Parallel HPLC; At 220 nm LC/MS M+1=470.1 1H NMR (500 MHz, MeOD) δ ppm 3.41 (dt, J=8.8 Hz, 7.7 Hz, 1H), 4.12-4.18 (m, 4H), 4.38 (s, 2H), 7.57-7.66 (m, 7H), 8.23 (d, J=8.3 Hz, 2H), 8.50 (s, 1H).

reactant | 4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | 1.821 mmol, 700 mg | C1(=CC=CC=C1)N1N=CC(=C1C(F)(F)F)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C19H11F3N4O2
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
reactant | azetidine-3-carboxylic acid | 2.0 mmol, 203 mg | N1CC(C1)C(=O)O | C4H7NO2
reactant | sodium triacetoxyborohydride | 2.91 mmol, 618 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | MeOH | 12 mL | CO | CH4O
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | 1-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylic acid | 1.02 mmol, 480 mg | C1(=CC=CC=C1)N1N=CC(=C1C(F)(F)F)C1=NC(=NO1)C1=CC=C(CN2CC(C2)C(=O)O)C=C1 | C23H18F3N5O3
